US07994325B2
Step E. 1-(1-{[5-Bromo-2-oxo-1-(2,2,2-trifluoroethyl)-1,2-dihydropyridin-3-yl]acetyl}piperidin-4-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-One
Triethylamine (410 μL, 2.94 mmol) was added to a solution of [5-bromo-2-oxo-1-(2,2,2-trifluoroethyl)-1,2-dihydropyridin-3-yl]acetic acid (231 mg, 0.736 mmol), 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (236 mg, 0.809 mmol), EDC (212 mg, 1.10 mmol), and HOAt (100 mg, 0.736 mmol) in DMF (13 mL). After 24 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with ethyl acetate (3×). The organic layers were dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography [100% dichloromethane→90% dichloromethane/methanol] gave the title compound (0.192 g). MS 516.0 (M+1).

reactant | Triethylamine | 2.94 mmol, 410 μL | C(C)N(CC)CC | C6H15N
reactant | [5-bromo-2-oxo-1-(2,2,2-trifluoroethyl)-1,2-dihydropyridin-3-yl]acetic acid | 0.736 mmol, 231 mg | BrC=1C=C(C(N(C1)CC(F)(F)F)=O)CC(=O)O | C9H7BrF3NO3
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.809 mmol, 236 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | EDC | 1.10 mmol, 212 mg
reactant | HOAt | 0.736 mmol, 100 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 1-(1-{[5-Bromo-2-oxo-1-(2,2,2-trifluoroethyl)-1,2-dihydropyridin-3-yl]acetyl}piperidin-4-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-One | 0.192 g | BrC=1C=C(C(N(C1)CC(F)(F)F)=O)CC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C20H19BrF3N5O3
